US07645761B2
5-(3-Methoxy-phenyl)-3,3-dimethyl-1,3-dihydro-indol-2-one 5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one
5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one (0.33 g, 1.38 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.094 g) were stirred under an atmosphere of nitrogen in dimethoxyethane (12 cm3). After 15 minutes, 3-methoxyphenylboronic acid (0.42 g, 2.76 mmol) was added, followed by potassium carbonate (1.15 g, 8.34 mmol) in water (5 cm3). The reaction was heated to reflux for 5 hours, and then cooled to room temperature. Saturated aqueous ammonium chloride and EtOAc were added and the mixture was filtered. The aqueous layer was extracted with EtOAc (×2), and the combined organic layers were dried (MgSO4), filtered, and evaporated. The residue was purified by column chromatography (SiO2, EtOAc:hexane 1:3) to afford the title compound (0.11 g, 31%), mp=157-158° C.; 1H NMR (DMSO-d6) δ 3.34 (s, 6H), 3.82 (s, 3H), 6.87-6.93 (m, 2H), 7.20-7.15 (m, 2H), 7.37-7.32 (m, 1H), 7.49-7.46 (m, 1H), 7.63 (d, 1H, J=1.14 Hz), 10.4 (s, 1H); MS (EI) m/z 266 (M−H)−; Anal. Calc. for C17H17NO2: C, 76.38; H, 6.41; N, 5.24; Found: C, 76.02; H, 6.49; N, 5.02.

reactant | 5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one | 1.38 mmol, 0.33 g | BrC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10BrNO
reactant | 3-methoxyphenylboronic acid | 2.76 mmol, 0.42 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | potassium carbonate | 8.34 mmol, 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | 12 cm3 | C(OC)COC | C4H10O2
solvent | water | 5 cm3 | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.094 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3-Methoxy-phenyl)-3,3-dimethyl-1,3-dihydro-indol-2-one 5-bromo-1,3-dihydro-3,3-dimethyl-2H-indol-2-one | 0.11 g, 31% | BrC=1C=C2C(C(NC2=CC1)=O)(C)C.COC=1C=C(C=CC1)C=1C=C2C(C(NC2=CC1)=O)(C)C | InChI=1S/C17H17NO2.C10H10BrNO/c1-17(2)14-10-12(7-8-15(14)18-16(17)19)11-5-4-6-13(9-11)20-3;1-10(2)7-5-6(11)3-4-8(7)12-9(10)13/h4-10H,1-3H3,(H,18,19);3-5H,1-2H3,(H,12,13)
